US05057505
7 g of phosphorus trichloride are mixed with 4.0 g of phosphorous acid and the mixture is heated, while stirring, at 60° for 1 hour. 6.12 g of N-(thiazol-2-yl)formamide are added thereto and the mixture is heated for a further 6 hours at approximately 60°. The mixture is then stirred with 30 ml of water, filtered with suction, subsequently washed with aqueous methanol and dried under reduced pressure. 2.0 g of 1-(thiazol-2-ylamino)methane-1,1-diphosphonic acid of m.p. 275° (decomposition) are obtained.

reactant | phosphorus trichloride | 7 g | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorous acid | 4.0 g | P(O)(O)O | H3O3P
reactant | N-(thiazol-2-yl)formamide | 6.12 g | S1C(=NC=C1)NC=O | C4H4N2OS
solvent | water | 30 ml | O | H2O
product | 1-(thiazol-2-ylamino)methane-1,1-diphosphonic acid | 2.0 g | S1C(=NC=C1)NC(P(O)(=O)O)P(O)(=O)O | C4H8N2O6P2S
